US07816540B2
2-Cyclohexyl-2-[2-(2,6-dimethoxy-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-N-(trans-4-hydroxy-cyclohexyl)-acetamide
To a solution of cyclohexyl-[2-(2,6-dimethoxy-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-acetic acid (300 mg, 0.70 mmol, 1.0 equiv) in DCM (5 mL) was added triethylamine (142.1 mg, 194.7 μL, 1.39 mmol, 2.0 equiv) and HATU (341.6 mg, 0.90 mmol, 1.3 equiv) and the mixture stirred at 40° C. After 15 min, trans-4-amino-cyclohexanol hydrochloride (137.04 mg, 0.90 mmol, 1.3 equiv; [CAS RN 50910-54-8]) was added and stirring continued at 50° C. for 2 h. Removal of the solvent mixture under reduced pressure and purification by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate yielded 0.33 g (90%) of the title compound. MS (ES+): 529 (M+H).

reactant | cyclohexyl-[2-(2,6-dimethoxy-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-acetic acid | 0.70 mmol, 300 mg, 1.0 equiv | C1(CCCCC1)C(C(=O)O)N1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC(=CC2)OC)OC | C22H23F2N3O4
reactant | triethylamine | 1.39 mmol, 194.7 μL, 142.1 mg, 2.0 equiv | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.90 mmol, 341.6 mg, 1.3 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | trans-4-amino-cyclohexanol hydrochloride | 0.90 mmol, 137.04 mg, 1.3 equiv | Cl.N[C@@H]1CC[C@H](CC1)O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyclohexyl-2-[2-(2,6-dimethoxy-pyridin-3-yl)-5,6-difluoro-benzoimidazol-1-yl]-N-(trans-4-hydroxy-cyclohexyl)-acetamide | 0.33 g, 90% | C1(CCCCC1)C(C(=O)N[C@@H]1CC[C@H](CC1)O)N1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC(=CC2)OC)OC | C28H34F2N4O4
